# FIT mimicing PWL
v1 1 0 dc 1 ac 1
r1 1 2 1k
r2 2 0 1k
e1 3 0 2 0 FIT (0,0 1,1 4,2 9,3 9,3 16,4 25,5) order=1
r3 3 0 10k
g1 4 0 2 0 FIT (0,0 1,1 4,2 9,3 16,4 25,5) order=1
r4 4 0 10k
.list
.print op v(nodes)
.op
.print dc v(nodes) iter(0)
.dc v1 -10 10 1
.dc v1 1 100 decade 5
.dc v1 32 68 9
*>.status notime
.end
